US07652015B2
1-{6-[4-(2,6-Difluoro-benzoyl)-piperazin-1-yl]-2-methyl-pyridin-3-yl}-3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea
Stir 1-[5-(2-Fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea hydrochloride (0.85 mmol, 0.5 g), 2,6-difluorobenzoyl chloride (0.85 mmol, 0.1 mL) and triethylamine (2.6 mmol, 0.4 mL) in 5 mL of CH2Cl2 at room temperature overnight. Add water and extract in CH2Cl2. Wash organic layer with saturated aq. sodium chloride solution. Dry over anhydrous sodium sulfate and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with using hexanes/ethyl acetate (20%-70%). MS(ES): m/z=624 [M+H].

reactant | 1-[5-(2-Fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-(2-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea hydrochloride | 0.85 mmol, 0.5 g | Cl.FCC(C)(CF)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C(=NC(=CC1)N1CCNCC1)C
reactant | 2,6-difluorobenzoyl chloride | 0.85 mmol, 0.1 mL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | triethylamine | 2.6 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-{6-[4-(2,6-Difluoro-benzoyl)-piperazin-1-yl]-2-methyl-pyridin-3-yl}-3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | FC1=C(C(=O)N2CCN(CC2)C2=CC=C(C(=N2)C)NC(=O)NC=2N(N=C(C2)C(CF)(C)CF)C2=CC=C(C=C2)C)C(=CC=C1)F | C32H33F4N7O2
